US04474792
A mixture of 7.05 g. (0.042 mole) of 5-methoxysalicyclic acid, 34.4 g. (0.2 mole) of methyl benzenesulfonate, 4.8 g. (0.2 mole) of sodium hydride and 100 ml. of N,N-dimethylformamide was heated at 125° C. for 16 hours, then poured into water. The mixture was extracted with diethyl ether and the extracts washed thrice with 200 ml. portions of 5N sodium hydroxide solution. The extracts were dried over magnesium sulfate, then evaporated to provide a residue which was dissolved in 100 ml. of ethanol and 100 ml. of 1N sodium hydroxide solution. The resulting solution was heated at reflux for 3 hours, then acidified with hydrochloric acid. The resulting solution was extracted with 200 ml. of diethyl ether. The extracts were washed with water, then dried. Evaporation provided 2,5-dimethoxybenzoic acid, m.p. 80°-85° C.

reactant | 5-methoxysalicyclic acid | 0.042 mole | COC1=CC=C(C(C(=O)O)=C1)O | C8H8O4
reactant | methyl benzenesulfonate | 0.2 mole | C1(=CC=CC=C1)S(=O)(=O)OC | C7H8O3S
reactant | sodium hydride | 0.2 mole | [H-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,5-dimethoxybenzoic acid | COC1=C(C(=O)O)C=C(C=C1)OC | C9H10O4
